US06867320B2
Synthesis of 2-bromo-6-sulfamoylaminonaphthalene (Intermediate 28)
A solution of chlorosulfonyl isocyanate (870 μl, WAKO) in benzene (10 ml) was added dropwise with formic acid (377 μl, WAKO) under ice cooling, warmed to room temperature, stirred for 19.5 hours, then heated to 40° C. and further stirred for 4 hours. The reaction mixture was added dropwise with a solution (5 ml) of 2-amino-6-bromonaphthalene (443 mg) in benzene under ice cooling, warmed to room temperature and stirred for 21.5 hours. The reaction mixture was filtered, and the obtained solid was added with ethyl acetate and mixed. The mixture was filtered again, and then the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (Quad, hexane:ethyl acetate=2:1) to obtain the title compound (Intermediate 28, 158 mg).

reactant | chlorosulfonyl isocyanate | 870 μl | ClS(=O)(=O)N=C=O | CClNO3S
reactant | formic acid | 377 μl | C(=O)O | CH2O2
reactant | 2-amino-6-bromonaphthalene | 5 ml, 443 mg | NC1=CC2=CC=C(C=C2C=C1)Br | C10H8BrN
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-bromo-6-sulfamoylaminonaphthalene | 158 mg | BrC1=CC2=CC=C(C=C2C=C1)NS(N)(=O)=O | C10H9BrN2O2S
